US04987132
A solution of 250 mg of 3-(4-cyanophenyl)propyl iodide, 0.85 g of anhydrous piperazine and 0.5 g of potassium carbonated in 10 ml of tetrahydrofuran was refluxed for 2 hours. The reaction mixture was concentrated under reduced pressure and, after addition of saturated aqueous solution of sodium chloride, the residue was extracted with ethyl acetate. The organic layer was washed with saturated aqueous solution of sodium chloride, dried over anhydrous sodium sulfate and concentrated under reduced pressure to give 140 mg of 1-[3-(4-cyanophenyl)propyl]piperazine.

reactant | 3-(4-cyanophenyl)propyl iodide | 250 mg | C(#N)C1=CC=C(C=C1)CCCI | C10H10IN
reactant | piperazine | 0.85 g | N1CCNCC1 | C4H10N2
reactant | potassium | 0.5 g | [K] | K
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-[3-(4-cyanophenyl)propyl]piperazine | 140 mg | C(#N)C1=CC=C(C=C1)CCCN1CCNCC1 | C14H19N3
